US08242145B2
Step 2: {3-[4-(1-Methyl-1H-pyrazol-4-yl)-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid
To the crude solution of {3-[4-(1-methyl-1H-pyrazol-4-yl)-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester (0.23 mmol) in DME and H2O was added lithium hydroxide (0.040 g, 0.95 mmol) in H2O (1 mL), and the reaction was stirred at 80° C. for 20 minutes. The mixture was acidified and concentrated, and the residue was dissolved in MeOH (4 mL) and purified by preparative HPLC to give the title compound.

reactant | {3-[4-(1-methyl-1H-pyrazol-4-yl)-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester | 0.23 mmol | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C=1C=NN(C1)C)CN1C(OCC1)=O)=O | C24H25N3O5
reactant | lithium hydroxide | 0.95 mmol, 0.040 g | [OH-].[Li+]
solvent | DME | COCCOC | C4H10O2
solvent | H2O | O | H2O
solvent | H2O | 1 mL | O | H2O
product | {3-[4-(1-Methyl-1H-pyrazol-4-yl)-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid | CN1N=CC(=C1)C1=CC(=C(OC=2C=C(C=CC2)CC(=O)O)C=C1)CN1C(OCC1)=O | C22H21N3O5
